US07030240B2
N-(1-(2-methoxybenzyl)piperidin-4-yl)-6-chloro-5-methylthieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (115 mg, 85%) from 6-chloro-5-methyl-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine (95 mg, 0.336 m. mol) and 1-(chloromethyl)-2-methoxybenzene (58 mg, 0.37 m. mol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3):δ 8.40 (s, 1H), 7.35 (m, 1H), 7.25 (m, 1H), 6.95 (m, 1H), 6.85 (d, 1H), 5.35 (d, 1H), 4.25 (m, 1H), 3.85 (s, 3H), 3.60 (s, 2H), 2.90 (m, 2H), 2.50 (s, 3H), 2.35 (m, 2H), 2.10 (m, 2H), 1.40 (m, 2H). MS (ESI) m/z: Calculated: 402.94; Observed: 403.2 (M++1).

reactant | 6-chloro-5-methyl-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 95 mg | ClC1=C(C2=C(N=CN=C2NC2CCNCC2)S1)C | C12H15ClN4S
reactant | 1-(chloromethyl)-2-methoxybenzene | 58 mg | ClCC1=C(C=CC=C1)OC | C8H9ClO
product | N-(1-(2-methoxybenzyl)piperidin-4-yl)-6-chloro-5-methylthieno[2,3-d]pyrimidin-4-amine | COC1=C(CN2CCC(CC2)NC=2C3=C(N=CN2)SC(=C3C)Cl)C=CC=C1 | C20H23ClN4OS
